US09107916B2
B. 2-[3-[(3,5-dichlorophenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and methyl 4-(3,5-dichlorophenyl)-3-oxobutanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | methyl 4-(3,5-dichlorophenyl)-3-oxobutanoate | ClC=1C=C(C=C(C1)Cl)CC(CC(=O)OC)=O | C11H10Cl2O3
product | 2-[3-[(3,5-dichlorophenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C(C=C(C1)Cl)CC1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C16H10Cl2N4O
